US05707987
To a solution of (2S,4S)-4-acetylthio-N-(p-nitrobenzyloxycarbonyl)-2-[4-[N-(p-nitrobenzyloxycarbonyl)aminomethyl]phenethyl]pyrrolidine (495 mg, 0.777 mmol) in tetrahydrofuran-methanol (2:1, 15 ml), 1N aqueous sodium hydroxide (1.5 ml, 1.5 mmol) was added in a nitrogen stream under cooling with ice. After this reaction solution was stirred at the same temperature for 2 hours, 1N aqueous hydrochloric acid (2.0 ml, 2.0 mmol) was added thereto, and this mixed solution was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. The solvent was distilled off in vacuo to give a crude product of (2R,4S)-4-mercapto-N-(p-nitrobenzyloxycarbonyl)-2-[4-[N-(p-nitrobenzyloxycarbonyl)aminomethyl]phenethyl]-pyrrolidine.

reactant | (2S,4S)-4-acetylthio-N-(p-nitrobenzyloxycarbonyl)-2-[4-[N-(p-nitrobenzyloxycarbonyl)aminomethyl]phenethyl]pyrrolidine | 0.777 mmol, 495 mg | C(C)(=O)S[C@H]1C[C@@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CCC1=CC=C(C=C1)CNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C31H32N4O9S
reactant | sodium hydroxide | 1.5 mmol, 1N, 1.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2.0 mmol, 1N, 2.0 ml | Cl | ClH
solvent | tetrahydrofuran-methanol | 15 ml | O1C(CCC1)CO | C5H10O2
product | (2R,4S)-4-mercapto-N-(p-nitrobenzyloxycarbonyl)-2-[4-[N-(p-nitrobenzyloxycarbonyl)aminomethyl]phenethyl]-pyrrolidine | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CCC1=CC=C(C=C1)CNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C29H30N4O8S
